US05403697
N-(2,4,6-tribromophenyl)-N'-(p-toluenesulfonyl) urea
50 mmol of 2,4,6-tribromoaniline were dissolved in 20 ml of tetrahydrofuran. A solution of 50 mmol of toluenesulfonyl isocyanate in 20 ml of tetrahydrofuran was added dropwise at room temperature, and the stirred reaction mixture was subsequently kept at 40° C. for 3 hours. The precipitated crystals were filtered off under suction. After recrystallization from toluene, the product had a melting point of 230° C.

reactant | 2,4,6-tribromoaniline | 50 mmol | BrC1=C(N)C(=CC(=C1)Br)Br | C6H4Br3N
reactant | toluenesulfonyl isocyanate | 50 mmol | C=1(C(=CC=CC1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(2,4,6-tribromophenyl)-N'-(p-toluenesulfonyl) urea | BrC1=C(C(=CC(=C1)Br)Br)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C14H11Br3N2O3S
